US04154851
dl 9-(para fluorobenzylamino) 10-methyl undecanoic acid
Using the procedure of example I step D and starting from 9-oxo 10-methyl undecanoic acid and para fluorobenzylamine then hydrogenating in the presence of a platinum catalyst dl 9-(para fluorobenzylamino) 10-methyl undecanoic acid is obtained melting at 78°-82° after recrystallisation from acetonitrile.

reactant | 9-oxo 10-methyl undecanoic acid | O=C(CCCCCCCC(=O)O)C(C)C | C12H22O3
reactant | para fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
catalyst | platinum | [Pt] | Pt
product | 9-(para fluorobenzylamino) 10-methyl undecanoic acid | FC1=CC=C(CNC(CCCCCCCC(=O)O)C(C)C)C=C1 | C19H30FNO2
